US08497281B2
5-(cis-2,3,4a,5,6,10b-Hexahydro-1H-benzo[f]quinoline-4-carbonyl)-3,3-dimethyl-1,3-dihydro-indol-2-one
The title compound is prepared from 3,3-dimethyl-2-oxo-2,3-dihydro-1H-indole-5-carboxylic acid and cis-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline following a procedure analogous to that described in Example 1 [2-(7-aza-1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate is used]. Yield: 19% of theory; LC (method 4): tR=1.95 min; Mass spectrum (ESI+): m/z=375 [M+H]+.

reactant | 3,3-dimethyl-2-oxo-2,3-dihydro-1H-indole-5-carboxylic acid | CC1(C(NC2=CC=C(C=C12)C(=O)O)=O)C | C11H11NO3
reactant | cis-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline | C1CCN[C@H]2CCC3=C([C@@H]12)C=CC=C3 | C13H17N
reactant | 2-(7-aza-1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
product | 5-(cis-2,3,4a,5,6,10b-Hexahydro-1H-benzo[f]quinoline-4-carbonyl)-3,3-dimethyl-1,3-dihydro-indol-2-one | Yield: 19% | C1CCN([C@H]2CCC3=C([C@@H]12)C=CC=C3)C(=O)C=3C=C1C(C(NC1=CC3)=O)(C)C | C24H26N2O2
